US04358451
9-Chloro-3-methyl-1,2,3,4,6,7,12,12b-octahydropyrimido[1',6':1,2]pyrido[3,4-b]indole-2,4-dione
10 g of ethyl 6-chloro-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-1-acetate (prepared according to the patent entitled Pyridoindoles, filed by the Applicant Company on this same day) are placed in a round-bottomed flask and 150 ml of cyclohexane and 2.5 ml (1.9 g) of methyl isocyanate are added. The mixture is heated at the reflux temperature for 1 hour. It is cooled in an ice bath and filtered. This yields a white solid which is taken up in 150 ml of ethanol. The mixture is stirred and ethanol saturated with hydrogen chloride (30 ml) is added. The mixture is heated under reflux for 1 hour. It is allowed to cool and filtered. The solid is recrystallised from ethanol.

reactant | ethyl 6-chloro-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole-1-acetate | 10 g | ClC=1C=C2C3=C(NC2=CC1)C(NCC3)CC(=O)OCC | C15H17ClN2O2
reactant | cyclohexane | 150 ml | C1CCCCC1 | C6H12
reactant | methyl isocyanate | 2.5 ml, 1.9 g | CN=C=O | C2H3NO
reactant | hydrogen chloride | 30 ml | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 9-Chloro-3-methyl-1,2,3,4,6,7,12,12b-octahydropyrimido[1',6':1,2]pyrido[3,4-b]indole-2,4-dione | ClC=1C=C2C3=C(NC2=CC1)C1N(CC3)C(N(C(C1)=O)C)=O | C15H14ClN3O2
